US03952012
A solution of 17.5 g. (0.1 mole) p-chlorobenzoyl chloride and 13.3 g. (0.1 mole) aluminum chloride in 150 ml. of dichloroethane is added rapidly to a solution of 25.3 g. (0.1 mole) of ethyl 1,4 -dimethyl-3ethoxycarbonylpyrrole-2-acetate in 100 ml. of refluxing 1,2-dichloroethane. The solution is refluxed for 3.5 hours and poured into ice-hydrochloric acid. The organic layer is separated and the aqueous layer washed with 1,2-dichloroethane. The combined organics are washed successively with water, N,N-dimethylaminopropylamine, dilute HCl and brine. The solution is then dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo. The residue product is crystallized from cyclohexane and recrystallized from methanol to give ethyl 5-(p-chlorobenzoyl)-1,4 dimethyl-3-ethoxycarbonylpyrrole-2-acetate as a white solid, m.p. 91°-93°C.

reactant | p-chlorobenzoyl chloride | 0.1 mole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | aluminum chloride | 0.1 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | ethyl 1,4 -dimethyl-3ethoxycarbonylpyrrole-2-acetate | 0.1 mole | CN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C13H19NO4
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | ethyl 5-(p-chlorobenzoyl)-1,4 dimethyl-3-ethoxycarbonylpyrrole-2-acetate | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)OCC)C(=O)OCC)C)C=C1 | C20H22ClNO5
